US07618990B2
4-[2-(3-Benzyl-5,5-dimethyl-2-oxoimidazolidin-1-yl)-1,3-thiazol-4-yl]benzonitrile
4-{2-[(1,1-Dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile (290 mg, 1.07 mmol), prepared in step 1 of Example 83, was dissolved in methanol (8 mL) and tetrahydrofuran (2 mL) and then 1 g of molecular sieves was added. Acetic acid (0.12 mL, 2.1 mmol) and benzylamine (0.35 mL, 3.21 mmol) were added, followed by sodium cyanoborohydride (0.404 g, 6.42 mmol), and the mixture was stirred for 3 h. The mixture was diluted with ethyl acetate and washed with H2O, brine, dried over anhydrous MgSO4, filtered and concentrated to give 390 mg of crude product. This material was dissolved in 15 mL tetrahydrofuran and triethylamine (0.81 mL, 5.6 mmol) was added followed by triphosgene (0.48 g, 1.6 mmol). The mixture was stirred for 1 h, poured into saturated NaHCO3, diluted with methylene chloride and washed with H2O, 1N HCl, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (20% ethyl acetate/hexane) afforded the title compound (0.250 g, 60%) as a pale yellow solid. HRMS: calcd for C22H20N4OS+H+, 389.14306; found (ESI, [M+H]+), 389.1449; Analytical HPLC: 83.0% at 210-370 nm, 11.0 min; 84.4% at 252 nm, 11.0 min; the Xterra® RP18 column, 3.5%, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 4-{2-[(1,1-Dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 1.07 mmol, 290 mg | CC(C=O)(C)NC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C14H13N3OS
reactant | Acetic acid | 2.1 mmol, 0.12 mL | C(C)(=O)O | C2H4O2
reactant | benzylamine | 3.21 mmol, 0.35 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 6.42 mmol, 0.404 g | C(#N)[BH3-].[Na+]
reactant | triethylamine | 5.6 mmol, 0.81 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 1.6 mmol, 0.48 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-[2-(3-Benzyl-5,5-dimethyl-2-oxoimidazolidin-1-yl)-1,3-thiazol-4-yl]benzonitrile | 0.250 g, 60% | C(C1=CC=CC=C1)N1C(N(C(C1)(C)C)C=1SC=C(N1)C1=CC=C(C#N)C=C1)=O | C22H20N4OS
